US04107186
105 g (0.5 mol) of 2-chloromethylphenyl chloroformate are warmed to 40° C with 195 g (2.5 mols) of benzene in 100 ml of hydrogen fluoride for one hour and to 100° C for a further hour. After distillation in vacuo, 60 g (yield: 52%) of 2-benzylphenyl fluoroformate are obtained. 2nd reaction stage

reactant | 2-chloromethylphenyl chloroformate | 0.5 mol, 105 g | ClC(=O)OC1=C(C=CC=C1)CCl | C8H6Cl2O2
reactant | benzene | 2.5 mols, 195 g | C1=CC=CC=C1 | C6H6
reactant | hydrogen fluoride | 100 ml | F | FH
product | 2-benzylphenyl fluoroformate | 60 g, yield: 52% | FC(=O)OC1=C(C=CC=C1)CC1=CC=CC=C1 | C14H11FO2
